US08222248B2
To a mixture of 2-(2,6-dichlorophenyl)-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid (403 mg), EDCI (121 mg) and HOBt (135 mg) in DMF (8 mL) was added 3,4-dimethylaniline (53 mg) and the mixture was stirred at room temperature for 24 h. The mixture was poured into water and was extracted with EtOAc. The organic phase was washed with water (3×) and dried over sodium sulfate. The solvent was removed under reduced pressure and the residue crystallized from EtOAc to give 2-(2,6-dichlorophenyl)-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid (3,4-dimethylphenyl)-amide as a pale-yellow solid, mp=238-240° C.; MS (m/z) 439 (M−1); 1H NMR DMSO-d6, 400 MHz) δ 10.49 (s, 1H), 8.62 (s, 1H), 8.50 (d, J=7.83 Hz, 1H), 8.24 (d, J=7.58 Hz, 1H), 7.80 (s, 1H), 7.78 (s, 1H), 7.67 (t, 1H), 7.59 (s, 1H), 7.53 (d, J=8.08 Hz, 1H), 2.24 (s, 3H), 2.21 (s, 3H).

reactant | 2-(2,6-dichlorophenyl)-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | 403 mg | ClC1=C(C(=CC=C1)Cl)N1C(C2=CC=C(C=C2C1=O)C(=O)O)=O | C15H7Cl2NO4
reactant | EDCI | 121 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 135 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3,4-dimethylaniline | 53 mg | CC=1C=C(N)C=CC1C | C8H11N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(2,6-dichlorophenyl)-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid (3,4-dimethylphenyl)-amide | CC=1C=C(C=CC1C)NC(=O)C=1C=C2C(N(C(C2=CC1)=O)C1=C(C=CC=C1Cl)Cl)=O | C23H16Cl2N2O3
